US06353006B1
To a suspension of 1-aminocyclopentanecarboxylic acid, (675 g, 5.23 mol, 1.0 equiv.) in MeOH (6.5 L) held at −15° C. with an ice/MeOH bath was added SOCl2 (687 mL, 9.4 mol, 1.8 equiv.), dropwise at such a rate that the reaction temp. did not exceed 7° C. After the addition was complete, cooling was removed, the reaction was allowed to stir at room temp. overnight, then was concentrated under reduced pressure. The residue was treated with CH2Cl2 (1 L) and concentrated under reduced pressure to afford methyl 1-aminocyclopentanecarboxylate HCl salt as a white solid (938 g, 100%): 1H NMR (CD3OD) d 1.87-1.94 (m, 8H), 3.83 (s, 3H); NMR (DMSO-d6) δ1.67-1.71 (m, 2H), 1.83-1.98 (m, 4H), 2.06-2.14 (m, 2H), 3.73 (s, 3H), 8.81 (br s 3). This material was used in the next step without further purification.

reactant | 1-aminocyclopentanecarboxylic acid | 5.23 mol, 675 g, 1.0 equiv. | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | SOCl2 | 9.4 mol, 687 mL, 1.8 equiv. | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 6.5 L | CO | CH4O
product | methyl 1-aminocyclopentanecarboxylate HCl salt | 938 g, 100% | Cl.NC1(CCCC1)C(=O)OC | InChI=1S/C7H13NO2.ClH/c1-10-6(9)7(8)4-2-3-5-7;/h2-5,8H2,1H3;1H
